US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-5-piperidin-4-ylmethoxyquinazoline dihydrochloride
Using an analogous procedure to that described in Example 37, N-(tert-butoxycarbonyl)piperidin-4-ylmethanol was reacted with 4-(6-chloro-2,3-methylenedioxyanilino)-5-fluoroquinazoline (0.1 g). The product so obtained was dissolved in a 2M solution of hydrogen chloride in diethyl ether (20 ml) and stirred at ambient temperature for 3 hours. The mixture was evaporated and the residue was triturated under diethyl ether. The solid so obtained was washed with diethyl ether and dried under vacuum. There was thus obtained the tilte compound (0.121 g); NMR Spectrum: (DMSOd6) 1.5–1.6 (m, 2H), 1.9–2.0 (m, 2H), 2.3–2.4 (m, 1H), 2.8–2.9 (m, 2H), 3.3 (d, 2H), 4.42 (d, 2H), 6.15 (s, 2H), 7.07 (d, 1H), 7.15 (d, 1H), 7.53 (m, 2H), 8.06 (m, 1H), 8.87 (s, 1H), 10.57 (br s, 1H); Mass Spectrum: M+H+ 413 and 415.

reactant | N-(tert-butoxycarbonyl)piperidin-4-ylmethanol | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-5-fluoroquinazoline | 0.1 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC=CC(=C13)F)OCO2 | C15H9ClFN3O2
solvent | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 4-(6-chloro-2,3-methylenedioxyanilino)-5-piperidin-4-ylmethoxyquinazoline dihydrochloride | 0.121 g | Cl.Cl.ClC1=CC=C2C(=C1NC1=NC=NC3=CC=CC(=C13)OCC1CCNCC1)OCO2 | InChI=1S/C21H21ClN4O3.2ClH/c22-14-4-5-17-20(29-12-28-17)19(14)26-21-18-15(24-11-25-21)2-1-3-16(18)27-10-13-6-8-23-9-7-13;;/h1-5,11,13,23H,6-10,12H2,(H,24,25,26);2*1H
